US08207370B2
Production of ethyl (2R,3R)-2-octadecanoylamino-3-hydroxyoctadecanoate
Triethylamine (830 mg, 8.20 mmol) and formic acid (227 mg, 4.93 mmol) were added to a chlorobenzene solution (15.0 ml) of RuCl[(R,R)-TsDPEN](p-cymene) complex (11.0 mg, 0.03 mmol) and ethyl 2-octadecanoylamino-3-oxooctadecanoate (1.00 g, 1.64 mmol) synthesized in the same method as Example 10. After the reaction mixture was stirred for 3 days at 40° C., water (10 mL) was added thereto and separation operation was carried out at 40° C. to obtain the organic layer. After the organic layer was concentrated until the total amount became 3.11 g, 10 mL of AcOEt was added thereto and recrystallization was carried out to obtain 0.73 g of the title compound (yield: 74%). Anti-form:syn-form was 100:0 and the optical purity of the anti-form was 100% ee.

reactant | Triethylamine | 8.20 mmol, 830 mg | C(C)N(CC)CC | C6H15N
reactant | formic acid | 4.93 mmol, 227 mg | C(=O)O | CH2O2
reactant | chlorobenzene | 15.0 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | ethyl 2-octadecanoylamino-3-oxooctadecanoate | 1.64 mmol, 1.00 g | C(CCCCCCCCCCCCCCCCC)(=O)NC(C(=O)OCC)C(CCCCCCCCCCCCCCC)=O | C38H73NO4
solvent | water | 10 mL | O | H2O
product | ethyl (2R,3R)-2-octadecanoylamino-3-hydroxyoctadecanoate | 0.73 g, yield: 74% | C(CCCCCCCCCCCCCCCCC)(=O)N[C@@H](C(=O)OCC)[C@@H](CCCCCCCCCCCCCCC)O | C38H75NO4
